US07906645B2
1-Acetyl-4-benzylpiperazine
A solution of 1-benzylpiperazine (1 g) and triethylamine (1.19 mL) in tetrahydrofuran (20 mL) was stirred at room temperature under argon. Acetyl chloride (0.424 mL) was added and the mixture was stirred for 10 minutes. The reaction was filtered and the white solid washed with ether. The filtrate was concentrated at reduced pressure to give the title compound as a colourless oil (1.2 g).

reactant | 1-benzylpiperazine | 1 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | triethylamine | 1.19 mL | C(C)N(CC)CC | C6H15N
reactant | Acetyl chloride | 0.424 mL | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-Acetyl-4-benzylpiperazine | 1.2 g | C(C)(=O)N1CCN(CC1)CC1=CC=CC=C1 | C13H18N2O
